US08809326B2
A mixture of 5-chloro-4-nitroanthranilic acid (8.7 g, 0.040 mol) and formamidine hydrochloride (4.9 g, 60 mmol) were ground to a fine, intimate powder using a mortar and pestle. The mixture was transferred into a 250 mL round bottomed flask and immersed in an oil bath maintained at 205° C. After 40 min, LCMS analysis of the reaction mixture showed mass corresponding to the product. The reaction mixture was cooled and the crude product was crushed into pieces and washed several times with saturated NaHCO3 (300 mL) and water (200 mL). The solid was air dried and triturated with a minimum amount of MeOH (20 mL) to obtain 6-chloro-7-nitroquinazoline-4-one (7.6 g, 83%) as a tan powder.

reactant | 5-chloro-4-nitroanthranilic acid | 0.040 mol, 8.7 g | ClC1=C(C=C(C(C(=O)O)=C1)N)[N+](=O)[O-] | C7H5ClN2O4
reactant | formamidine hydrochloride | 60 mmol, 4.9 g | Cl.C(=N)N
product | 6-chloro-7-nitroquinazoline-4-one | 7.6 g, 83% | ClC=1C=C2C(NC=NC2=CC1[N+](=O)[O-])=O | C8H4ClN3O3
